US06348474B1
Ethyl 3-(2,4-dichlorobenzyl)-5-cyano-2-mehtylpyrrolo[3,2-b]pyridine-1-carboxylate
To a suspension of ethyl 3-(2,4-dichlorobenzyl)-2-methylpyrrolo[3,2-b]pyridine-1-carboxylate N-oxide (414 mg) in anhydrous triethylamine (4 ml) was added trimethylsilylcyanide (704 mg) at room temperature in a nitrogen atmosphere, and the mixture was refluxed with heating overnight. The reaction mixture was cooled and a saturated aqueous sodium hydrogencarbonate solution was added. The mixture was extracted with ethyl acetate, and washed with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate. After filtration, the filtrate was concentrated, and the residue was subjected to flash silica gel chromatography (silica gel, 80 ml, eluted with hexane-ethyl acetate=5-1) and crystallized from isopropyl ether to give the objective compound (204 mg) as colorless crystals.

reactant | ethyl 3-(2,4-dichlorobenzyl)-2-methylpyrrolo[3,2-b]pyridine-1-carboxylate N-oxide | 414 mg | ClC1=C(CC2=C([N+](C=3C2=NC=CC3)(C(=O)OCC)[O-])C)C=CC(=C1)Cl | C18H16Cl2N2O3
reactant | trimethylsilylcyanide | 704 mg | C[Si](C)(C)C#N | C4H9NSi
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
product | Ethyl 3-(2,4-dichlorobenzyl)-5-cyano-2-mehtylpyrrolo[3,2-b]pyridine-1-carboxylate | 204 mg | ClC1=C(CC2=C(N(C=3C2=NC(=CC3)C#N)C(=O)OCC)C)C=CC(=C1)Cl | C19H15Cl2N3O2
